US04304770
Trifluoroacetic acid (4 ml.) was added under ice-cooling to a stirred suspension of 7-[2-t-butoxycarbonylmethoxyimino-2-(2-aminothiazol-4-yl)acetamido]-3-(1,3,4-thiadiazol-2-yl)thiomethyl-3-cephem-4-carboxylic acid (syn isomer) (1.0 g.) in anisole (1 ml.), and the resultant mixture was stirred for 70 minutes at ambient temperature. The reaction mixture was concentrated under reduced pressure and diethyl ether was added thereto. Precipitates were collected by filtration, washed with diethyl ether, dried, suspended in water (10 ml.) and then dissolved in a 10% aqueous solution of sodium hydroxide (pH 7-7.5). The solution was adjusted to pH 3.0 with 10% hydrochloric acid under ice-cooling and stirring and stirred for 30 minutes under ice-cooling. Precipitates were collected by filtration, washed with water and dried to give 7-[2-carboxymethoxyimino-2-(2-aminothiazol-4-yl)acetamido]-3-(1,3,4-thiadiazol-2-yl)thiomethyl-3-cephem-4-carboxylic acid (syn isomer) (0.75 g.).

reactant | Trifluoroacetic acid | 4 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | 7-[2-t-butoxycarbonylmethoxyimino-2-(2-aminothiazol-4-yl)acetamido]-3-(1,3,4-thiadiazol-2-yl)thiomethyl-3-cephem-4-carboxylic acid | 1.0 g | C(C)(C)(C)OC(=O)CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC=2SC=NN2)C(=O)O)C1=O)C=1N=C(SC1)N | C21H23N7O7S4
solvent | anisole | 1 ml | C1(=CC=CC=C1)OC | C7H8O
product | 7-[2-carboxymethoxyimino-2-(2-aminothiazol-4-yl)acetamido]-3-(1,3,4-thiadiazol-2-yl)thiomethyl-3-cephem-4-carboxylic acid | 0.75 g | C(=O)(O)CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC=2SC=NN2)C(=O)O)C1=O)C=1N=C(SC1)N | C17H15N7O7S4
